US06673804B1
5-Trifluoromethyl-1-(2-trimethylsilyl)ethoxymethyl-pyrimidine-2,4-dione
In a similar manner to the procedures described in Reference Example 3, reactions were carried out using 5-trifluoromethylpyrimidine-2,4-dione, instead of pyrimidine-2,4-dione, and using 2-(trimethylsilyl)ethoxymethyl chloride, instead of benzyloxymethyl chloride, to give the title compound (yield 76%) as a white powder.

reactant | 5-trifluoromethylpyrimidine-2,4-dione | FC(C=1C(NC(NC1)=O)=O)(F)F | C5H3F3N2O2
reactant | pyrimidine-2,4-dione | N1C(NC(C=C1)=O)=O | C4H4N2O2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | C[Si](CCOCCl)(C)C | C6H15ClOSi
product | benzyloxymethyl chloride | C(C1=CC=CC=C1)OCCl | C8H9ClO
